US08461328B2
A mixture of piperidin-4-yl-carbamic acid tert-butyl ester (2.00 g, 10.00 mmol), bromofluoroethane (1.5 g, 12.00 mmol) and potassium carbonate (2.80 g, 20.00 mmol) in acetonitrile (50 mL) was heated at 80° C. for 20 h. Cooled, diluted with ethyl acetate, washed with water, brine, dried over sodium sulfate and concentrated. The residue was dissolved in DCM (10 mL) and 4N HCl/dioxane (12 mL, 50.00 mmol) was added and the suspension was stirred for 20 h at ambient temperature. The solid was collected by filtration, washed well with ethyl acetate and dried in a vacuum oven to afford 1-(2-fluoro-ethyl)-piperidin-4-ylamine.HCl salt (1.70 g, 93%): 1H NMR (400 MHz, DMSO) δ 8.43 (s, 3H), 5.02-4.90 (m, 1H), 4.89-4.77 (m, 1H), 3.56-3.50 (m, 2H), 3.46 (d, J=3.7 Hz, 1H), 3.38 (d, J=3.8 Hz, 1H), 3.26 (d, J=4.9 Hz, 1H), 3.18-3.02 (m, 2H), 2.20-2.09 (m, 2H), 2.07-1.89 (m, 2H).

reactant | piperidin-4-yl-carbamic acid tert-butyl ester | 10.00 mmol, 2.00 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | bromofluoroethane | 12.00 mmol, 1.5 g | BrC(C)F | C2H4BrF
reactant | potassium carbonate | 20.00 mmol, 2.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl dioxane | 50.00 mmol, 4N, 12 mL | Cl.O1CCOCC1
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-fluoro-ethyl)-piperidin-4-ylamine | FCCN1CCC(CC1)N | C7H15FN2
